US06673804B1
(1) (±)-N-(tert-Butoxycarbonyl)-2-(phthalimidoethyl)glycine Allyl Ester
Diethyl azodicarboxylate (5.7 ml, 36.2 mmol, abbreviated as DEAD hereinafter) was added dropwise to a mixture of (±)-N-(tert-butoxycarbonyl)homoserine allyl ester (7.79 g, 30.0 mmol), phthalimide (4.41 g, 30 mmol), triphenylphosphine (9.45 g, 36.0 mmol) and tetrahydrofuiran (75 ml) at room temperature with stirring. This mixture was stirred for 1 hour. The solvent of the reaction mixture was evaporated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=4/1 as the eluent to afford the desired compound (8.46 g, yield 73%) as a white powder.

reactant | Diethyl azodicarboxylate | 36.2 mmol, 5.7 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (±)-N-(tert-butoxycarbonyl)homoserine allyl ester | 30.0 mmol, 7.79 g | C(C=C)OC([C@@H](NC(=O)OC(C)(C)C)CCO)=O | C12H21NO5
reactant | phthalimide | 30 mmol, 4.41 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 36.0 mmol, 9.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-N-(tert-Butoxycarbonyl)-2-(phthalimidoethyl)glycine Allyl Ester | 8.46 g, yield 73% | C(C=C)OC(C(NC(=O)OC(C)(C)C)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C20H24N2O6
